US06743794B2
(t-Butoxy)-N-[(3-nitrophenyl)methyl]carboxamide
To a suspension of 5.00 g (26.5 mmol) of 3-nitrobenzylamine hydrochloride in 100 mL CH2Cl2 at room temperature was added 5.79 g (26.5 mmol) of di-t-butyl dicarbonate. To this was added 8.13 mL (58.3 mmol) of triethylamine, dropwise over 15 min. The reaction was stirred for 3 h at room temperature, after which it was diluted with 300 mL of ethyl acetate. The resulting organic solution was washed three times with 1N HCl solution, dried over sodium sulfate and concentrated in vacuo to give 6.2 g (93%) of a white solid, which was characterized as the-title compound. MS (FIA) m/z=253.

reactant | 3-nitrobenzylamine hydrochloride | 26.5 mmol, 5.00 g | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
reactant | di-t-butyl dicarbonate | 26.5 mmol, 5.79 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 58.3 mmol, 8.13 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (t-Butoxy)-N-[(3-nitrophenyl)methyl]carboxamide | 6.2 g, 93% | C(C)(C)(C)OC(=O)NCC1=CC(=CC=C1)[N+](=O)[O-] | C12H16N2O4
